US04698340
A solution of N-(2-dimethylaminoethyl)-6-methyl-4-(3-nitrophenyl)-2-phenyl-5-pyrimidinecarboxamide (1 g) and methyl iodide (10.46 ml) in ethyl acetate (2 ml) was stirred for 5 days at room temperature. The reaction mixture was evaporated and the residue was recrystallized from ethyl alcohol to afford N-(2-trimethylammonioethyl)-6-methyl-4-(3-nitrophenyl)-2-phenyl-5-pyrimidinecarboxamide iodide (0.95 g).

reactant | N-(2-dimethylaminoethyl)-6-methyl-4-(3-nitrophenyl)-2-phenyl-5-pyrimidinecarboxamide | 1 g | CN(CCNC(=O)C=1C(=NC(=NC1C)C1=CC=CC=C1)C1=CC(=CC=C1)[N+](=O)[O-])C | C22H23N5O3
reactant | methyl iodide | 10.46 ml | CI | CH3I
solvent | ethyl acetate | 2 ml | C(C)(=O)OCC | C4H8O2
product | N-(2-trimethylammonioethyl)-6-methyl-4-(3-nitrophenyl)-2-phenyl-5-pyrimidinecarboxamide iodide | 0.95 g | [I-].C[N+](CCNC(=O)C=1C(=NC(=NC1C)C1=CC=CC=C1)C1=CC(=CC=C1)[N+](=O)[O-])(C)C | InChI=1S/C23H25N5O3.HI/c1-16-20(23(29)24-13-14-28(2,3)4)21(18-11-8-12-19(15-18)27(30)31)26-22(25-16)17-9-6-5-7-10-17;/h5-12,15H,13-14H2,1-4H3;1H
